US08084620B2
Step 1 A mixture of 5-methylisoindoline-1,3-dione (5.00 g, 31.0 mmol) and tin shavings (8.84 g, 74.5 mmol) in acetic acid (30 mL) and concentrated hydrochloric acid (15 mL) was heated at reflux for 3 h. The hot solution was filtered and the residual tin shavings were washed with acetic acid. The filtrate was concentrated and the residue was diluted with DCM (200 mL), and washed with water (20 mL) and brine (20 mL), dried and concentrated. The precipitate which formed during the concentration was collected by filtration and washed with DCM (5 mL) and dried under vacuum to give 5-methylisoindolin-1-one (2.3 g, 50%). 1H NMR (400 MHz, chloroform-d) δ 7.70 (1H, d, J=7.77 Hz), 7.43 (1H, s), 7.35 (1H, d, J=7.77 Hz), 4.46 (2H, s), 2.48 (3H, s). Mass spectrum m/z 148.0 (M+H)+.

reactant | 5-methylisoindoline-1,3-dione | 31.0 mmol, 5.00 g | CC=1C=C2C(NC(C2=CC1)=O)=O | C9H7NO2
reactant | tin | 74.5 mmol, 8.84 g | [Sn] | Sn
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 15 mL | Cl | ClH
product | 5-methylisoindolin-1-one | 2.3 g, 50% | CC=1C=C2CNC(C2=CC1)=O | C9H9NO
